US07799762B2
D-cysteine is S-alkyl substituted with p-methoxybenzyl bromoacetate in presence of sodium carbonate in a THF-water medium. The S-benzyloxycarbonylmethylcysteine thus obtained is N-acylated with (R)-3-tetradecanoyloxytetradecanoic acid chloride, and the S-alkyl-N-acyl-D-cysteine derivative is then coupled with (2R)-5-amino-2-[(R)-3-hydroxytetradecanoylamino]pentan-1-ol amine {obtained by hydrogenolysis of the (2R)-5-amino-2-[(R)-3-benzyloxy-tetradecanoyl-amino]pentan-1-ol, see 4.1.1.} in presence of IIDQ. The thus obtained product is selectively O-acylated in its primary position with the ester derived from reacting HOBt with 7-(p-methoxybenzyloxy-carbonylamino)heptanoic acid. The two p-methoxybenzyl groups are then removed by treating the ester with aqueous trifluoroacetic acid. C59H112N4O10S. MM 1069.64.

reactant | (R)-3-tetradecanoyloxytetradecanoic acid chloride | C(CCCCCCCCCCCCC)(=O)O[C@@H](CC(=O)Cl)CCCCCCCCCCC | C28H53ClO3
reactant | (2R)-5-amino-2-[(R)-3-hydroxytetradecanoylamino]pentan-1-ol amine | NCCC[C@H](C(O)N)NC(C[C@@H](CCCCCCCCCCC)O)=O | C19H41N3O3
product | (2R)-5-amino-2-[(R)-3-benzyloxy-tetradecanoyl-amino]pentan-1-ol | NCCC[C@H](CO)NC(C[C@@H](CCCCCCCCCCC)OCC1=CC=CC=C1)=O | C26H46N2O3
